US07425631B2
Step F. Preparation of N-[6-(3-aminopropyl)-1,2,3,4-tetrahydro-naphthalen-1-yl]-3-(3,4-dichlorobenzene-sulfonylamino)-3-(4-fluoro-phenyl)-propionamide
To a solution of N-[6-(2-Cyano-vinyl)-1,2,3,4-tetrahydro-naphthalen-1-yl]-3-(3,4-dichloro-benzenesulfonylamino)-3-(4-fluoro-phenyl)-propionamide (150 mg, 0.26 mmol) in EtOH:CHCl3 mixture (75:25, 10 mL) was added PtO2 (18 mg, 0.078 mmol). The resulting mixture was flushed under N2 gas followed by evacuating—this was done 3 times. After last evacuation, the hydrogen balloon was inserted. The reaction mixture was stirred under H2 at RT for 2 h. Solvent was separated from the PtO2 by passing through the Celite®. Solvent was evaporated in vacuo to give the final product. MS m/z: 579.11 (M+H). Calc'd. for C28H30Cl2FN3O3S-578.53.

reactant | N-[6-(2-Cyano-vinyl)-1,2,3,4-tetrahydro-naphthalen-1-yl]-3-(3,4-dichloro-benzenesulfonylamino)-3-(4-fluoro-phenyl)-propionamide | 0.26 mmol, 150 mg | C(#N)C=CC=1C=C2CCCC(C2=CC1)NC(CC(C1=CC=C(C=C1)F)NS(=O)(=O)C1=CC(=C(C=C1)Cl)Cl)=O | C28H24Cl2FN3O3S
reactant | CHCl3 | 10 mL | C(Cl)(Cl)Cl | CHCl3
solvent | EtOH | CCO | C2H6O
catalyst | PtO2 | 0.078 mmol, 18 mg | O=[Pt]=O
product | N-[6-(3-aminopropyl)-1,2,3,4-tetrahydro-naphthalen-1-yl]-3-(3,4-dichlorobenzene-sulfonylamino)-3-(4-fluoro-phenyl)-propionamide | NCCCC=1C=C2CCCC(C2=CC1)NC(CC(C1=CC=C(C=C1)F)NS(=O)(=O)C1=CC(=C(C=C1)Cl)Cl)=O | C28H30Cl2FN3O3S
